US08802664B2
To a solution of 1,2,3-triazole (36.5 mg) in N,N-dimethylformamide (1 mL) is added a dispersion of sodium hydride 60% in mineral oil (1 molar equivalent). The reaction mixture is stirred at room temperature for 15 minutes, then a solution of methanesulfonic acid 2-{3-[benzothiazol-2-yl(1-methylpiperidin-4-yloxy)methyl]phenylsulfanyl}ethyl ester (85 mg) in N,N-dimethylformamide (1 mL) is added. The reaction mixture is stirred at 60° C. overnight. Water is added and the aqueous phase is extracted by ethyl acetate. The organic phase is dried over magnesium sulfate and concentrated under reduced pressure. The residue is purified by column chromatography (gradient dichloromethane/methanol/ammonia 100/0/0 to 90/10/1) to afford 2-{(1-methylpiperidin-4-yloxy)[3-(2-[1,2,3]triazol-2-yl-ethylsulfanyl)phenyl]methyl}benzothiazole.

reactant | 1,2,3-triazole | 36.5 mg | N1N=NC=C1 | C2H3N3
reactant | sodium hydride | [H-].[Na+]
reactant | methanesulfonic acid 2-{3-[benzothiazol-2-yl(1-methylpiperidin-4-yloxy)methyl]phenylsulfanyl}ethyl ester | 85 mg | S1C(=NC2=C1C=CC=C2)C(C=2C=C(C=CC2)SCCOS(=O)(=O)C)OC2CCN(CC2)C | C23H28N2O4S3
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 2-{(1-methylpiperidin-4-yloxy)[3-(2-[1,2,3]triazol-2-yl-ethylsulfanyl)phenyl]methyl}benzothiazole | CN1CCC(CC1)OC(C=1SC2=C(N1)C=CC=C2)C2=CC(=CC=C2)SCCN2N=CC=N2 | C24H27N5OS2
